US08937071B2
To a mixture of 2-(4-bromo-2-fluorophenyl)acetic acid (100 mg, 0.429 mmol) in DCM (50 mL) was added 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine (92 mg, 0.472 mmol), HATU (245 mg, 0.644 mmol) and Et3N (0.179 mL, 1.287 mmol). Then the mixture was stirred at 25° C. for 12 h. The mixture was concentrated and the crude material was purified by preparative TLC (PE/EA=2:1, Rf=0.4) to yield a yellow oil of 2-(4-bromo-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (50 mg, 0.109 mmol, 25.4% yield): 1H NMR (400 MHz, CDCl3) δ: 8.12 (s., 1H) 7.35-7.27 (m, 2H) 7.23-7.18 (m, 1H) 6.95 (s, 1H) 3.72 (s, 2H) 1.55 (s, 6H); ES-LCMS m/z 411 (M+2).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 0.429 mmol, 100 mg | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine | 0.472 mmol, 92 mg | FC(C(C)(C)C1=CC(=NO1)N)(F)F | C7H9F3N2O
reactant | HATU | 0.644 mmol, 245 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.287 mmol, 0.179 mL | CCN(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 0.109 mmol, 50 mg, 25.4% yield | BrC1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C15H13BrF4N2O2
